US07667071B2
98 g (1 mol) of cyclohexanone, 113 g (1 mol) of ethyl cyanoacetate, 84 g (1 mol) of cyanoacetamide, and 100 ml of methanol were mixed in a reaction flask. 101 g (1 mol) of triethylamine was added dropwise under stirring, and the reaction mixture was stirred for 8 hours with the temperature controlled within the range of 25° C. to 30° C., and then was cooled and filtered. The filter cake was suspended in water, and the suspension was adjusted to pH 2-3 with concentrated hydrochloric acid while stirring. The suspension was filtered, washed with water, and dried to provide 1,5-dicyano-2,4-dioxo-3-azaspiro[5,5]-undecane. Yield: 88%, melting point: 202 to 210° C.

reactant | cyclohexanone | 1 mol, 98 g | C1(CCCCC1)=O | C6H10O
reactant | ethyl cyanoacetate | 1 mol, 113 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | cyanoacetamide | 1 mol, 84 g | C(#N)CC(=O)N | C3H4N2O
reactant | triethylamine | 1 mol, 101 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 100 ml | CO | CH4O
product | 1,5-dicyano-2,4-dioxo-3-azaspiro[5,5]-undecane | Yield: 88% | C(#N)C1C(NC(C(C12CCCCC2)C#N)=O)=O | C12H13N3O2
